US08466167B2
To a solution of methyl 5-aminobenzo[f][1,7]naphthyridine-8-carboxylate (from the previous step) (1.0 eq.) in EtOH (0.03M) was added NaBH4 (10 eq.) at 25° C. The solution was heated to 80° C. for 5 hours. After cooling to ambient temperature, the reaction mixture was concentrated en vaccuo. The residue was portionized between saturated NaHCO3 and EtOAc. The layers were separated and aqueous layer was extracted with EtOAc twice. The combined organic layer was washed with brine, dried over MgSO4 and concentrated en vaccuo to obtain a crude residue. The crude material was purified by flash chromatography on a COMBIFLASH® system (ISCO) using 0-10% MeOH/DCM to give (5-aminobenzo[f][1,7]naphthyridin-8-yl)methanol as an off white solid: 1H NMR (methanol-d4): δ 8.82 (dd, 1H), 8.77 (dd, 1H), 7.26 (d, 1H), 7.70 (dd, 1H), 7.50 (d, 1H), 7.27 (dd, 1H), 4.66 (s, 2H). LRMS [M+H]=226.1.

reactant | methyl 5-aminobenzo[f][1,7]naphthyridine-8-carboxylate | NC1=NC2=C(C=3C=CC=NC13)C=CC(=C2)C(=O)OC | C14H11N3O2
reactant | NaBH4 | 10 eq. | [BH4-].[Na+]
solvent | EtOH | 0.03M | CCO | C2H6O
product | (5-aminobenzo[f][1,7]naphthyridin-8-yl)methanol | NC1=NC2=C(C=3C=CC=NC13)C=CC(=C2)CO | C13H11N3O
